Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
Penicillins / Tetracyclines
 
Attending: ___.
 
Chief Complaint:
seizures
 
Major Surgical or Invasive Procedure:
___ Right frontal craniotomy for brain biopsy
 
History of Present Illness:
The patient is a ___ year old man with a significant history of 
multiple concussions who presented to OSH ED after he had what 
he thought was a seizure and was subsequently transferred to 
___ after MRI demonstrated frontal lobe edema. 

History provided by patient, who is very tired on exam. He 
requested that I not wake his parents, who he lives with and 
know him well, for further details as they were asleep. Per 
patient, he has been feeling more tired over past few weeks but 
thought it was related to dehydration. He may have had some 
fever, chills but is not sure. He did have some trouble focusing 
at that time
but again was attributing it to dehydration> he notes that he 
truly felt unwell on ___. 

He is a ___ and was at practice when all of a sudden he 
had significant word-finding difficulties. He initially thought 
he was dehydrated. He went home and had some water and a snack 
then went to take a nap. He woke up at 0200 and couldn't move 
his body for 15 seconds. He decided at this time to drink more 
water the next day thinking he would be better off. On ___, 
he said he was still feeling off but had no real incidents. 
However, on ___ morning, he woke up and ate a peanut 
butter and banana sandwich and drank water, thinking the 
sandwich would help him feel less tired. He then went out for 
lunch with "the guys" and had 2 guiness glasses and ___ cups of
water. He felt very tired then and decided to cancel all of 
evening appointments. At 0230 AM that night, he woke up and took 
off his CPAP. All of a sudden, his right arm got stiff and 
flexed outwards, describing a figure of 4 position with his left 
arm. He couldn't move his arm up or down. This lasted about 2 
minutes. As soon as he felt "released" he started throwing up. 
He couldn't get up right away as his legs were "not 
cooperating." He finally
got up and started vomiting in the bathroom. He had tongue 
lacerations but no incontinence. He wasn't feeling well but fell 
back asleep. In the morning, he still did not feel well so he 
called EMS. 

Regarding concussion history:
-endorses at least 14. mostly sports related when he was 
younger. he also got into car accident. His most notable 
concussion was in ___ when he walked into a fight between high 
risk kids as part of his job as a "paraprofessional?" He lost 
consciousness and had some head imaging done there. He had 
significant headaches and memory loss after this event and 
resorted to calling everyone
"___" and "darling" because he could not remember names. 
___ his symptoms improved but he still had to live with his 
parents for ongoing concussive symptoms (current living 
arrangements are unclear per his history). 

His most recent concussion was in ___. He got hit with a ball. 
No loss of consciousness but instantly knew that he would have 
concussion. He again had memory loss after this event but it has 
reportedly started to improve since.

On neurologic review of systems, the patient endorses a ___ 
frontal headache. No lightheadedness or confusion. He also 
endorses right shoulder pain. Only travel history notable for St 
___ in ___. 

He is not able to provide detailed general review of symptoms, 
saying maybe he had some fever/chills but just thought it was 
nothing. 

 
Past Medical History:
concussions
 
Social History:
___
Family History:
no history of cancer or seizures or auto-immune conditions that
he is aware of
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
Vitals: T98.5, HR89, BP117/79, RR16, 100RA
 
General: obese, somnolent but easily arousable
HEENT: right tongue laceration
Neck: No nuchal rigidity
Pulmonary: breathing comfortably on room air
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.
Extremities: No ___ edema.
Skin: no rashes or lesions noted.

Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history but
without definitive details/glosses over some facts. Attentive,
able to name ___ backward without difficulty, can spell WORLD
backwards. Counts 7 quarters in 1.75. Language is fluent with
intact repetition and comprehension. Normal prosody. Frequent
paraphasic errors. Difficulty naming low frequency objects, 
calls
watch band "security tag" and says the clasp "holds the things 
to
the wrist." There was no evidence of apraxia or neglect. Luria
task intact.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. No adventitious movements, such as tremor, noted. 
No
asterixis noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  *    *   *   ___  ___    5  5     5     5   5
*Limited by severe pain to movement

-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense, proprioception throughout. No extinction to 
DSS.
No agraphasthesia. 

-DTRs: ___ response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

=======================

DISCHARGE EXAM:

Opens eyes: [x]spontaneous [ ]to voice [ ]to noxious

Orientation: [x]Person [x]Place [x]Time

Follows commands: [ ]Simple [x]Complex [ ]None

Pupils: 4-2mm Right   4-2mm   Left

EOM: [x]Full [ ]Restricted

Face Symmetric: [x]Yes [ ]NoTongue Midline: [x]Yes [ ]No

Pronator Drift [ ]Yes [x]No     Speech Fluent: [x]Yes [ ]No

Comprehension intact [x]Yes [ ]No

Motor:
TrapDeltoidBicepTricepGrip

IPQuadHamATEHLGast

[x]Sensation intact to light touch

Wound: 
[x] Clean, dry, intact 
 
Pertinent Results:
ADMISSION LABS
==============
___ 06:52PM BLOOD WBC-11.2* RBC-4.73 Hgb-14.4 Hct-40.1 
MCV-85 MCH-30.4 MCHC-35.9 RDW-12.7 RDWSD-39.0 Plt ___
___ 06:52PM BLOOD Neuts-77.7* Lymphs-11.6* Monos-10.1 
Eos-0.0* Baso-0.2 Im ___ AbsNeut-8.68* AbsLymp-1.30 
AbsMono-1.13* AbsEos-0.00* AbsBaso-0.02
___ 06:52PM BLOOD ___ PTT-28.7 ___
___ 06:52PM BLOOD Plt ___
___ 06:52PM BLOOD Glucose-99 UreaN-13 Creat-1.5* Na-140 
K-4.1 Cl-101 HCO3-24 AnGap-15
___ 06:52PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG

CSF STUDIES
===========
___ 11:15AM CEREBROSPINAL FLUID (CSF) TNC-3 RBC-0 Polys-0 
___ ___ 11:15AM CEREBROSPINAL FLUID (CSF) TotProt-44 Glucose-67 
LD(LDH)-28

IMAGING
=======
MRI head w and w/o contrast ___ (second read)
FINDINGS:
There is diffuse geographic FLAIR subcortical hyperintense 
signal involving the right frontal lobe, insula and temporal 
lobe extending across midline via the corpus callosum to involve 
the left frontal lobe.  Subtle patchy regions of subcortical 
enhancement of the right frontal lobe (series 4, image 20) is 
identified.  This is associated with small patchy areas of 
diffusion restriction (series 4, image 19; series 400, image 
19).  No evidence of hemorrhage.  Associated mass effect 
minimally effaces the frontal horn of the right lateral 
ventricle causes 2-3 mm of leftward midline shift.  No evidence 
of infarction.  Major intracranial flow voids are preserved.  
Dural venous sinuses appear patent.  There is minimal mucosal 
thickening of the ethmoidal air cells and left maxillary sinus.  
Orbits are unremarkable.

IMPRESSION:
1. Region of abnormal FLAIR hyperintensity predominantly 
involving the right frontal and temporal lobes, but also 
crossing the corpus callosum to involve the left frontal lobe.  
Patchy regions of subtle enhancement is identified, with small 
regions demonstrating slow diffusion. 
2. Overall the findings would suggest glioma, with regions of 
slow diffusion and subtle patchy enhancement suggesting possible 
higher grade.  Differential considerations include lymphoma, 
however this would be expected to demonstrate more homogeneous 
enhancement as well as greater associated slow diffusion. 
3. This is felt to be less likely encephalitis given lack of 
associated 
cortical thickening.  No acute infarct or intracranial 
hemorrhage. 
4. Additional findings as described above.

DISCHARGE LABS
==============
See OMR for additional labs or imaging results.
 
Brief Hospital Course:
Mr. ___ is a ___ year old man with a significant history of 
multiple concussions who presented to OSH ED with gradual 
progressive confusion and 2 episodes of right arm tonic 
stiffening with intact awareness. He was found to have right 
frontal mass. 

#Right frontal lobe lesion:
The patient was initially brought to an OSH where he had an MRI 
brain revealing prominent R frontal FLAIR hyperintensities 
extending inferiorly to the temporal lobe and medially across 
the corpus callosum, with very minimal (if any) contrast 
enhancement. He was brought to ___ for further evaluation. The 
patient was started on dexamethasone and keppra. Repeat imaging 
revealed extensive right frontal predominantly white matter 
abnormality with scattered areas of enhancement. 
He underwent craniotomy for brain biopsy with Dr. ___ on 
___. There were no issues perioperatively and the patient 
recovered well in the PACU. He was tolerating a diet, 
ambulating, and voiding without issue POD 1. He was discharged 
home from the PACU on ___ with follow-up to Brain Tumor 
Clinic and the ___ for a wound check and staple 
removal.

#Focal seizures:
Developed ___ month history of gradually progressive cognitive 
problems, specifically mild anomia (difficulty remembering names 
of children he coaches for ___), inattention and 
disorientation. Notably has some intellectual delay at baseline 
(attentional, mild anomia). The week of presentation he also had 
two events highly suspicious for seizure, characterized by right 
arm tonic stiffening, one with severe tongue biting, followed by 
right sided weakness that improved over several hours. He was 
initially brought to an OSH where he had an MRI brain revealing 
prominent R frontal FLAIR hyperintensities extending inferiorly 
to the temporal lobe and medially across the corpus callosum, 
with very minimal (if any) contrast enhancement. He was brought 
to ___ for further evaluation. Initial exam notable for mild 
inattention, some right arm pain, otherwise nonfocal. Labs 
notable for bland CSF studies (3 WBC), normal protein and 
glucose. Imaging is notable for MRI brain w/ and w/o contrast 
revealing T2 hyperintensities involving the white matter of the 
right frontal lobe, extending to the temporal lobe and crossing 
the corpus callosum, with minimal contrast enhancement. He was 
initiated on keppra 1000 mg BID. He underwent mass biopsy on 
___. Etiology most concerning for malignancy, particularly 
high grade glioma versus CNS lymphoma. The seizures are likely 
secondary to the right frontal lesion, and the fact that 
deficits were ipsilateral to the lesion is consistent with about 
30% of frontal lobe seizure foci.

#Mild ___:
Peak Cr 1.5 while inpatient. ___ baseline Crt is unclear. This 
improved with fluids. Likely pre-renal from poor PO intake.

 
Medications on Admission:
None
 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN fever or pain  
2.  Dexamethasone 2 mg PO Q12H 
RX *dexamethasone 2 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0 
3.  Docusate Sodium 100 mg PO BID  
4.  Famotidine 20 mg PO BID 
RX *famotidine 20 mg 1 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*0 
5.  LevETIRAcetam 1000 mg PO BID 
RX *levetiracetam 1,000 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0 
6.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth Q6hr Disp #*10 Tablet 
Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
#seizure
#right frontal lobe mass
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure to care for you at the ___ 
___.

WHY DID I COME TO THE HOSPITAL?
--You developed seizures and some more confusion at home.

WHAT HAPPENED WHEN I WAS IN THE HOSPITAL?
--We performed an MRI study of your brain and found a mass. This 
mass may have caused you to have seizures.
--We started you on a new anti seizure medication called Keppra. 
You had no additional seizures in the hospital.
--We took a tissue sample from your brain mass to determine what 
it is.

Surgery
 You underwent a biopsy. A sample of tissue from the lesion in 
your brain was sent to pathology for testing. 
 Please keep your incision dry until your sutures/staples are 
removed. You can remove your dressing 48 hours after surgery and 
leave it open to air.
 You may shower at this time but keep your incision dry.
 It is best to keep your incision open to air but it is ok to 
cover it when outside. 
 Call your surgeon if there are any signs of infection like 
redness, fever, or drainage. 

Activity
 We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
 You make take leisurely walks and slowly increase your 
activity at your own pace once you are symptom free at rest. 
___ try to do too much all at once.
 No driving while taking any narcotic or sedating medication. 
 If you experienced a seizure while admitted, you are NOT 
allowed to drive by law for at least 6 months. 
 No contact sports until cleared by your neurosurgeon. You 
should avoid contact sports for 6 months. 

Medications
 Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 
 You have been discharged on Keppra (Levetiracetam). This 
medication helps to prevent seizures. Please continue this 
medication as indicated on your discharge instruction. It is 
important that you take this medication consistently and on 
time. 
 You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.

What You ___ Experience:
 You may experience headaches and incisional pain. 
 You may also experience some post-operative swelling around 
your face and eyes. This is normal after surgery and most 
noticeable on the second and third day of surgery.  You apply 
ice or a cool or warm washcloth to your eyes to help with the 
swelling. The swelling will be its worse in the morning after 
laying flat from sleeping but decrease when up. 
 You may experience soreness with chewing. This is normal from 
the surgery and will improve with time. Softer foods may be 
easier during this time. 
 Feeling more tired or restlessness is also common.
 Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.

When to Call Your Doctor at ___ for:
 Severe pain, swelling, redness or drainage from the incision 
site. 
 Fever greater than 101.5 degrees Fahrenheit
 Nausea and/or vomiting
 Extreme sleepiness and not being able to stay awake
 Severe headaches not relieved by pain relievers
 Seizures
 Any new problems with your vision or ability to speak
 Weakness or changes in sensation in your face, arms, or leg

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:
 Sudden numbness or weakness in the face, arm, or leg
 Sudden confusion or trouble speaking or understanding
 Sudden trouble walking, dizziness, or loss of balance or 
coordination
 Sudden severe headaches with no known reason

We wish you all the best,
Your ___ care team
 
Followup Instructions:
___